US04092311
A mixture of 10.0 g. of 6-(p-chlorophenyl)-3-chloropyridazine, 6.6 g. of hydrazine hydrate and 150 ml. of butanol is heated at reflux overnight. The reaction mixture is cooled and the precipitate is collected by filtration, washed with butanol and water and then dried yielding 6-(p-chlorophenyl)-3-hydrazinopyridazine.

reactant | 6-(p-chlorophenyl)-3-chloropyridazine | ClC1=CC=C(C=C1)C1=CC=C(N=N1)Cl | C10H6Cl2N2
reactant | hydrazine hydrate | O.NN
solvent | butanol | C(CCC)O | C4H10O
product | 6-(p-chlorophenyl)-3-hydrazinopyridazine | ClC1=CC=C(C=C1)C1=CC=C(N=N1)NN | C10H9ClN4
